US06894042B2
Methyl 2-(diethoxymethyl)-1-benzofuran-5-carboxylate (2.6 g, 8.5 mmol) is combined with formic acid (15 ml) and water (3.8 ml). The reaction is stirred 6 h at RT, the volatiles are removed in vacuo, and the residue is neutralized with 50 ml saturated NaHCO3. The mixture is extracted with CH2Cl2 (4×20 ml), the organic layer is dried (K2CO3), and is concentrated in vacuo to provide 1.72 g (99%) of methyl 2-formyl-1-benzofuran-5-carboxylate as amber flakes. HRMS (EI) calcd for C11H8O4: 204.0423, found 204.0418 (M)+.

reactant | Methyl 2-(diethoxymethyl)-1-benzofuran-5-carboxylate | 8.5 mmol, 2.6 g | C(C)OC(C=1OC2=C(C1)C=C(C=C2)C(=O)OC)OCC | C15H18O5
reactant | formic acid | 15 ml | C(=O)O | CH2O2
solvent | water | 3.8 ml | O | H2O
product | methyl 2-formyl-1-benzofuran-5-carboxylate | 1.72 g, 99% | C(=O)C=1OC2=C(C1)C=C(C=C2)C(=O)OC | C11H8O4
